US08071588B2
A mixture of 4-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-4-oxobutanoic acid (1.0 g, 2.478 mmol) and 1-[3-bromo-4-(methyloxy)phenyl]methanamine (0.581 g, 2.69 mmol), HATU (1.065 g, 2.8 mmol) and triethylamine (0.781 ml, 5.6 mmol) was stirred in dichloromethane (45 mL) at room temperature overnight. The reaction mixture was diluted with DCM, washed with saturated NaHCO3, followed by saturated NaCl. The organic layer was dried over Na2SO4 and then evaporated to dryness which gave, initially, a glassy gum, but which then appeared to crystallize. The residue was taken up in a small amount of MeOH and sonicated for a while. A crystalline white solid formed and was collected and dried to afforded N-{[3-bromo-4-(methyloxy)phenyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}butanediamide (804 mg, 53.9%) as a white solid. LC-MS m/z 601.3 (M+H)+, 0.77 min (ret time).

reactant | 4-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-4-oxobutanoic acid | 2.478 mmol, 1.0 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CCC(=O)O)=O)CC | C20H29N5O4
reactant | 1-[3-bromo-4-(methyloxy)phenyl]methanamine | 2.69 mmol, 0.581 g | BrC=1C=C(C=CC1OC)CN | C8H10BrNO
reactant | HATU | 2.8 mmol, 1.065 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 5.6 mmol, 0.781 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-{[3-bromo-4-(methyloxy)phenyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}butanediamide | 804 mg, 53.9% | BrC=1C=C(C=CC1OC)CNC(CCC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C28H37BrN6O4
